US05750524
Step 5: 2-(t-Butoxycarbonylaminomethyl)-5-hydroxyindane
Dissolved in 100 ml of methanol were 3.53 g (10.0 mmol) of 5-benzyloxy-2-(t-butoxycarbonylaminomethyl)indane. After 0.3 g of 10% palladium-carbon was added to the solution, the mixture was stirred for 4 hours under a hydrogen atmosphere. The catalyst was separated by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain 2.79 g of a colorless oily substance. Yield: 94%.

reactant | 5-benzyloxy-2-(t-butoxycarbonylaminomethyl)indane | 10.0 mmol, 3.53 g | C(C1=CC=CC=C1)OC=1C=C2CC(CC2=CC1)CNC(=O)OC(C)(C)C | C22H27NO3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | 2-(t-Butoxycarbonylaminomethyl)-5-hydroxyindane | Yield: 94% | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2C1)O | C15H21NO3
